US08455477B2
A solution of 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carbaldehyde (10.0 mg, 0.039 mmol), 3-aminopyridine (5.5 mg, 0.059 mmol), and acetic acid (50 μl) in 1,2-dichloroethane (1 ml) was stirred for 2 d. Sodium triacetoxyborohydride (24.8 mg, 0.117 mmol) was added and the mixture was stirred for 1 d. The mixture was diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate. The organic layer was filtered with isoElute and concentrated. The residue was purified by column chromatography on silica gel (methanol/ethyl acetate gradient) to give N-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]methyl}pyridin-3-amine 1H NMR (500 MHz, CDCl3) δ 8.52 (s, 1H); 8.21 (s, 1H); 8.00 (d, 1H); 7.96 (s, 1H), 7.80 (s, 1H), 7.69 (d, 1H), 7.02 (d, 1H), 6.95 (d, 1H), 6.81 (s, 1H), 6.08 (t, 1H), 4.47 (s, 2H), 3.98 (s, 3H), 3.82 (s, 3H) LRMS (ESI) calculated for C18H19N6O [M+H]+, 335.2; found 335.1.

reactant | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carbaldehyde | 0.039 mmol, 10.0 mg | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C=O | C13H12N4O2
reactant | 3-aminopyridine | 0.059 mmol, 5.5 mg | NC=1C=NC=CC1 | C5H6N2
reactant | acetic acid | 50 μl | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.117 mmol, 24.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]methyl}pyridin-3-amine | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2CNC=2C=NC=CC2 | C18H18N6O
